US07361766B2
3A. Preparation of 1-Phenyl-1H-pyrazol-3-amine
To a solution of 1-phenyl-3-amino-pyrazoline(7.4 g, 46 mmol) in dioxane (200 mL) was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (11.54 g, 50 mmol). After addition, the reaction was stirred at RT for 1 hour, then the resulting dark solution was filtered through a pad of Celite. The filtrate was acidified with 1N aqueous HCl (100 mL) and extracted with CH2Cl2 (50 mL). The organic layer was extracted with 1N aqueous HCl (50 mL). The combined aqueous layers were washed with CH2Cl2 (2×50 mL), then adjusted to pH12 with NaOH, followed by extraction with CH2Cl2 (3×100 mL). The combined CH2Cl2 extracts were washed with saturated NaCl (100 mL), dried (MgSO4), and concentrated under reduced pressure to give the title compound, 1-phenyl-3-amino-pyrazole as light orange solid (3.0 g, 41% yield). LC/MS (method A): retention time=1.43 min, (M+H)+=160.

reactant | 1-phenyl-3-amino-pyrazoline | 46 mmol, 7.4 g | C1(=CC=CC=C1)N1NC(=CC1)N | C9H11N3
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 50 mmol, 11.54 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | 1-phenyl-3-amino-pyrazole | C1(=CC=CC=C1)N1N=C(C=C1)N | C9H9N3
